US09403846B2
Step 4. Synthesis of (3S,3aR,5R)-5-cyclopropyl-3-methyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C27)
An aqueous solution of sodium hypochlorite (6.15% solution, 0.7 mL, 0.6 mmol) was added drop-wise to a solution of 2-{[(1R,3E)-1-cyclopropylpent-3-en-1-yl]oxy}-N-hydroxyethanimine (C26) (200 mg, 1.09 mmol) in dichloromethane (10 mL), followed by addition of triethylamine (11 μL, 79 μmol). The reaction mixture was stirred for 1 hour, then treated with a drop of triethylamine and additional aqueous sodium hypochlorite solution (6.15%, 0.5 mL, 0.4 mmol). After 20 minutes, the reaction mixture was partitioned between water (10 mL) and dichloromethane (20 mL); the organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. Purification via silica gel chromatography (Gradient: 0% to 100% ethyl acetate in heptane) provided the product as an oil. The indicated relative stereochemistry of compound C27 was assigned based on nuclear Overhauser enhancement studies, which revealed interactions of the methine proton on carbon 3a with both the protons of the methyl group on carbon 3 and the methine proton on carbon 5. Yield: 150 mg, 0.828 mmol, 76%. 1H NMR (400 MHz, CDCl3) δ 4.64 (d, J=13.5 Hz, 1H), 4.17-4.25 (m, 1H), 4.08 (dd, J=13.6, 1.3 Hz, 1H), 2.84-2.93 (m, 1H), 2.76 (ddd, J=11.0, 7.9, 1.9 Hz, 1H), 2.21 (dddd, J=12.9, 6.6, 1.9, 0.5 Hz, 1H), 1.57 (ddd, J=12.9, 11.4, 11.4 Hz, 1H), 1.45 (d, J=6.2 Hz, 3H), 0.86-0.96 (m, 1H), 0.48-0.61 (m, 2H), 0.35-0.42 (m, 1H), 0.19-0.26 (m, 1H).

reactant | sodium hypochlorite | 0.6 mmol, 0.7 mL | Cl[O-].[Na+]
reactant | 2-{[(1R,3E)-1-cyclopropylpent-3-en-1-yl]oxy}-N-hydroxyethanimine | 1.09 mmol, 200 mg | C1(CC1)[C@@H](C\C=C\C)OCC=NO | C10H17NO2
reactant | triethylamine | 79 μmol, 11 μL | C(C)N(CC)CC | C6H15N
reactant | sodium hypochlorite | 0.4 mmol, 0.5 mL | Cl[O-].[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (3S,3aR,5R)-5-cyclopropyl-3-methyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2C(=NO[C@H]2C)CO1 | C10H15NO2
